US09428509B2
2-Chloro-4-(cyclopentyloxy)-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine
To a solution of cyclopentanol (1 equiv) in anhydrous THF (0.22 M) was added sodium hydride (60% in mineral oil, 1.3 equiv) at 0° C. under nitrogen. After the resulting reaction mixture was stirred at room temperature for 30 min, 2,4-dichloro-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine (0.67 equiv) was added. The reaction was stirred at room temperature for 4 h and quenched with saturated aqueous ammonium chloride solution. The aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and filtered. Concentration under vacuum gave the crude product, which was purified by silica gel column chromatography (5% ethyl acetate in petroleum ether) to afford the title compound (46% yield). MS (ESI) m/z 493.2. [M+1]+.

reactant | cyclopentanol | 1 equiv | C1(CCCC1)O | C5H10O
reactant | sodium hydride | 1.3 equiv | [H-].[Na+]
reactant | 2,4-dichloro-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 0.67 equiv | ClC=1N=C(C2=C(N1)N(C=C2I)COCC[Si](C)(C)C)Cl | C12H16Cl2IN3OSi
solvent | THF | 0.22 M | C1CCOC1 | C4H8O
product | 2-Chloro-4-(cyclopentyloxy)-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 46% yield | ClC=1N=C(C2=C(N1)N(C=C2I)COCC[Si](C)(C)C)OC2CCCC2 | C17H25ClIN3O2Si
